US06949552B2
0.2 g of 1-[2-(4-Fluorophenyl)-2-piperazinoethyl]-4-(4-naphthalen-1-yl-butyl)piperazine tetrahydrochloride was dissolved in 0.7 ml of dimethylformamide, and 74 mg of 60% sodium hydride in oil was added with ice-cooling. The temperature was elevated to room temperature, followed by stirring for 10 minutes. To the reaction solution was added a 0.3 ml of dimethylformamide solution of 0.2 g of 2-bromopropane, followed by stirring overnight. The reaction solution was poured to water and, after extraction with ethyl acetate, the organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by a silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=1:1) to give 0.13 g of 1-[2-(4-fluorophenyl)-2-(4-isopropylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine as an oil.

reactant | 1-[2-(4-Fluorophenyl)-2-piperazinoethyl]-4-(4-naphthalen-1-yl-butyl)piperazine tetrahydrochloride | 0.2 g | Cl.Cl.Cl.Cl.FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)N1CCNCC1
reactant | sodium hydride | 74 mg | [H-].[Na+]
reactant | 2-bromopropane | 0.2 g | BrC(C)C | C3H7Br
reactant | water | O | H2O
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-fluorophenyl)-2-(4-isopropylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine | 0.13 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)N1CCN(CC1)C(C)C | C33H45FN4
